US05464746
Example 17: Dibenzofuran/BSA Immunogen (G49)
Dbf-BAE (0.085 g, 0.3mmol) prepared above (F246) and HOSu (0.054 g, 0.47 mmol) were dissolved in NMP (2 mL). To this solution was added DCC (0.084 g, 0.41 mmol) and the reaction stirred at ambient temperature for 18 h under N2 atmosphere. BSA (0.5 g) was dissolved in sodium phosphate buffer (pH8.0, 0.05M) then NMP 2.3 mL) was added. The active ester solution was filtered and added to the protein solution. The reaction was mixed by rotation for 18 h at ambient temperature. The cloudy solution was dialyzed against sodium phosphate buffer (pH8.0. 0.1M) with 10% ethanol (3×6.6L) at ambient temperature, then with distilled water (3×6L) at 2°-8° C. Lyopholization gave the immunogen as a white powder (0.47 g).

reactant | HOSu | 0.47 mmol, 0.054 g | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 0.41 mmol, 0.084 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | NMP | 2 mL | CN1CCCC1=O | C5H9NO
reactant | NMP | 2.3 mL | CN1CCCC1=O | C5H9NO
solvent | sodium phosphate | 0.05M, pH8.0 | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | Dibenzofuran | 0.47 g | C1=CC=CC=2OC3=C(C21)C=CC=C3 | C12H8O
